### PR TITLE
Add Erdős Problem 1027 (many proper 2-colourings of sparse uniform families), link the formal proof

### LINKED ISSUE #6275: Erdős Problem 1027
### What is the Erdős problem?

https://www.erdosproblems.com/1027

Let $c>0$, and let $n$ be sufficiently large depending on $c$. Suppose that $\mathcal{F}$ is a family of at most $c2^n$ many finite sets of size $n$. Let $X=\cup_{A\in \mathcal{F}}A$. Must there exist $\gg_c 2^{\lvert X\rvert}$ many sets $B\subset X$ which intersect every set in $\mathcal{F}$, yet contain none of them?

Status: proved (Koishi Chan, in the comments on the problem page). A formal proof exists in plby/lean-proofs (`Erdos1027.erdos_1027`, Codex and GPT-5.6 Sol). Related to #901.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6275.

### What changed
Adds `FormalConjectures/ErdosProblems/1027.lean` with `groundSet F`, `goodSets F` (the `B ⊆ X` meeting every set of `F` and containing none) and:
- `erdos_1027` (`research solved`, `answer(True)`): for every `c > 0` there is `δ > 0` such that, for large `n`, every family of at most `c 2^n` sets of size `n` has at least `δ 2^{|X|}` good sets (proof by Koishi Chan on the problem page). Linked to plby/lean-proofs `Erdos1027.erdos_1027` (Codex and GPT-5.6 Sol; 17 Mathlib-only files).

### How checked
- Rebuilt all of plby's files against this repo's Mathlib: `#print axioms Erdos1027.erdos_1027` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions coincide):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge1027

lemma groundSet_eq {α : Type} [DecidableEq α] (F : Finset (Finset α)) :
    Erdos1027.groundSet F = Erdos1027Plby.groundSet F := rfl

lemma goodSets_eq {α : Type} [DecidableEq α] (F : Finset (Finset α)) :
    Erdos1027.goodSets F = Erdos1027Plby.goodSets F := by
  classical
  unfold Erdos1027.goodSets Erdos1027Plby.goodSets
  congr

theorem erdos_1027_bridge : type_of% Erdos1027.erdos_1027 := by
  show True ↔ _
  simp only [true_iff]
  intro c hc
  obtain ⟨δ, hδ, N, hN⟩ := Erdos1027Plby.erdos_1027 c hc
  refine ⟨δ, hδ, ?_⟩
  filter_upwards [eventually_ge_atTop N] with n hn
  intro α _ F hF hcard
  rw [groundSet_eq, goodSets_eq]
  exact hN n hn α F hF hcard

end Bridge1027
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1027»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1027.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1027.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
